US05106842
Diphenylmethyl 7-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-(2-amino-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylate (Ic4)
Acylation of diphenylmethyl 7-amino-3-(2-amino-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylate (25 mg, 0.054 mmol) with 1-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetyl]-4-methyltetrazole-5-thione (19.5 mg, 0.066 mmol) in THF (0.25 mL), according to the procedure described in Example 13, afforded the title compound as a granular yellow solid.

reactant | diphenylmethyl 7-amino-3-(2-amino-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylate | 0.054 mmol, 25 mg | NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)N)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C24H19N3O5S
reactant | 1-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetyl]-4-methyltetrazole-5-thione | 0.066 mmol, 19.5 mg | NC=1SC=C(N1)/C(/C(=O)N1N=NN(C1=S)C)=N/OC | C8H9N7O2S2
solvent | THF | 0.25 mL | C1CCOC1 | C4H8O
product | Diphenylmethyl 7-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-(2-amino-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylate | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)N)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C30H24N6O7S2
